US08003647B2
2-(3-Cyanoindol-1-yl)isonicotinic acid ethyl ester
A mixture of 1H-indole-3-carbonitrile (0.1 g), 2-bromoisonicotinic acid ethyl ester (0.16 g), potassium phosphate (0.27 g), (1R,2R)-(−)-N,N′-dimethylcyclohexane-1,2-diamine (0.017 g), copper iodide (0.006 g) and toluene (0.7 mL) was stirred at 110° C. for 38 hours. The insoluble material was removed by filtration, and this filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90 to 66/34) to give the title compound (0.061 g).

reactant | 1H-indole-3-carbonitrile | 0.1 g | N1C=C(C2=CC=CC=C12)C#N | C9H6N2
reactant | 2-bromoisonicotinic acid ethyl ester | 0.16 g | C(C)OC(C1=CC(=NC=C1)Br)=O | C8H8BrNO2
reactant | potassium phosphate | 0.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (1R,2R)-(−)-N,N′-dimethylcyclohexane-1,2-diamine | 0.017 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | copper iodide | 0.006 g | [Cu](I)I
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Cyanoindol-1-yl)isonicotinic acid ethyl ester | 0.061 g | C(C)OC(C1=CC(=NC=C1)N1C=C(C2=CC=CC=C12)C#N)=O | C17H13N3O2
